### PR TITLE
The random-oracle package port — in-circuit sponge and block hash, with laws

### PR DESCRIPTION
**Pull request by martyall**
## What

Ports `packages/random-oracle` to Lean: the in-circuit duplex sponge (the Fiat–Shamir transcript primitive) and the block-mode hash (`Random_oracle.hash`), each pinned to its value-level counterpart by a sound/complete law pair per op. Plan: `formal/docs/incircuit-sponge-plan.md`; one commit per stage.

Before this, the Lean side had the value duplex sponge (`Poseidon.Basic`, fixture-validated) and the permutation gadget, and nothing in between — any in-circuit verifier needing a challenge had to hand-roll raw permutation calls and re-prove its own absorb schedule.

## The stages

- **S0 — poseidon exposure** (`b32ae1d9`): `Mode` → public `SpongeMode`, `absorb1`/`addSlot` public. The circuit sponge shares the mode type and its laws target the value single-element step. No semantic change.
- **S1 — the circuit duplex sponge** (`f1af653f`, `Snarky/Kimchi/Circuit/Sponge.lean`): `SpongeVar` (width-3 state as circuit variables, mode as metadata), `init`/`ofConstants`/`absorb`/`squeeze` mirroring `Poseidon.absorb1`/`squeeze` branch for branch — one `poseidon` block per permutation, one seal per absorption (PS operand order kept), free squeeze reads.
- **S2 — the sponge laws** (`93151e6a`): `Vals`/`Reads` reads-as relations with near-rfl `init`/`ofConstants` entry points, and four `@[spec]`-registered conditional-payload triples (`∀ s, Vals V sv s → Vals V r (Poseidon.absorb1 p s (x.val V))` and friends) wrapping the unregistered `poseidon_spec`/`poseidon_complete_spec` once. Any absorb/squeeze schedule now composes under `mvcgen` with no per-transcript lemma.
- **S3 — the value block hash** (`15ddfda7`, `poseidon/Poseidon/RandomOracle.lean`): rate-2 chunking with zero pads, eager permute per block, digest at slot 0. Its validation is a theorem, not a fixture: `hash_eq_squeeze` identifies block-mode hashing with duplex absorb-then-squeeze (eager-vs-lazy permutation scheduling and zero-padding wash out), so the module inherits the duplex automaton's `mina_poseidon` fixture validation.
- **S4 — the circuit block hash** (`bcd2c067`, `Snarky/Kimchi/Circuit/RandomOracle.lean`): `update`/`hash2`/`hashVec` — chunking as metadata, bare `add_` sums into the permutation (no seal, as PS) — with law pairs landing on the S3 value model; `ReadsAll` is the complete laws' public input vocabulary.

## Deviations and deferrals (recorded in the module docstrings)

- PS `Vector`s render as pairs/triples; the ambient `PoseidonField` class arrives as explicit `Params F`; index-arithmetic chunking renders as structural recursion with padding rules preserved.
- The `Digest`/`Hashable`/`HashInput` class plumbing is not ported (PS dispatch ergonomics; the operations are the port surface).
- Deferred with reasons: `Input.purs` (`packToFields` — no Lean consumer yet), `DomainSeparator.purs` (FFI-backed, semantics live in JS), and a standalone sponge/hash oracle circuit (no corpus dump exists; the laws pin semantics to the fixture-validated value automaton, byte-parity waits for a sponge-bearing circuit transcription).

## Gates

Full workspace build; style; snarky axiom gate **146 → 160 roots**, poseidon **19 → 24**, standard axioms only; deadcode 2,602 authored decls / 0 dead; `lake lint`; shake; oracle corpus 31/31; both poseidon fixture checks green.

🤖 Generated with [Claude Code](https://claude.com/claude-code)

https://claude.ai/code/session_015QYZxnvZuHfK7cR4DYFHBA

### CODE REVIEW

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 1]
```diff
@@ -0,0 +1,526 @@
...
+    refine ih r₁ _ ⟨s.V, nv₁⟩ ?_
+    intro r₂ nv₂ h₂
+    refine hpre _ _ ?_
+    simp only [List.map_cons, List.foldl_cons, ← h₁]
+    exact h₂
+
+/-- The complete-side reading of an input list — element-wise pinned evaluations, in
+the order given, as `List.Forall₂`. The vocabulary of
+`update_complete_spec`/`hashVec_complete_spec`. -/
+def ReadsAll [Field F] (env : Assignments F) (xs : List (FVar F)) (vs : List F) :
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: why is this `ReadsAll` machinery defined in this poseidon circuit module? This is general purpose stuff, if its private make it private, if its no it needs tolive in a sensible place

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 2]
```diff
@@ -0,0 +1,526 @@
...
+  | [], _ => ⟨[], .nil⟩
+  | x :: xs, h => by
+    obtain ⟨v, hv⟩ := CVar.evalOk (h x (by simp))
+    obtain ⟨vs, hvs⟩ := exists_readsAll (xs := xs) fun y hy => h y (by simp [hy])
+    exact ⟨v :: vs, .cons hv hvs⟩
+
+/-- The complete-side reading of a block list — `ReadsAll`'s shape, componentwise on
+the pairs. -/
+private def ReadsBlocks [Field F] (env : Assignments F)
+    (bs : List (FVar F × FVar F)) (vs : List (F × F)) : Prop :=
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: surely this is statable as some generic theorem over circuit types, or something where the produce is a consequence of some basic Reads class / instance

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean (hunk 1 above)
Comment (martyall) [reply formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: surely this is statable as some generic theorem over circuit types, or something where the produce is a consequence of some basic Reads class / instance

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 3]
```diff
@@ -0,0 +1,526 @@
...
+        rw [hb₁] at hv₁; rw [hb₂] at hv₂
+        injection hv₁ with hv₁; injection hv₂ with hv₂
+        subst hv₁ hv₂
+        simp only [List.foldl_cons]
+        exact hrest _ _ _ _ houtv.1 houtv.2.1 houtv.2.2 (ReadsBlocks.le hle₁ hr')
+
+/-- `update` is sound: the output cells read as `Poseidon.RandomOracle.update` of the
+cell and input readings. -/
+@[spec] theorem update_spec [Field F] [DecidableEq F] (p : Poseidon.Params F)
+    (hsize : p.roundConstants.size = 5 * 11) (st : FVar F × FVar F × FVar F)
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: use 55, or a global constant nRounds or something, 5*11 is dumb

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 4]
```diff
@@ -0,0 +1,526 @@
...
+    (xs : List (FVar F))
+    (Q : PostCond (FVar F × FVar F × FVar F) (.arg (BuilderState F) .pure)) :
+    ⦃Sound (fun V (r : FVar F × FVar F × FVar F) =>
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: why is this a raw tuple, why not make state a newtype like in ps

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 5]
```diff
@@ -0,0 +1,526 @@
...
+        (r.1.val V, r.2.1.val V, r.2.2.val V)
+          = Poseidon.RandomOracle.update p
+              (st.1.val V, st.2.1.val V, st.2.2.val V)
+              (xs.map (fun x => x.val V))) Q⦄
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: isnt this readsall? even your own add hoc structures are not consistent

File: formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean [hunk 6]
```diff
@@ -0,0 +1,526 @@
...
+  rw [ha] at ha'; rw [hb] at hb'
+  injection ha' with ha'; injection hb' with hb'
+  subst ha' hb'
+  simpa [Poseidon.RandomOracle.hash, Poseidon.RandomOracle.update,
+    Poseidon.RandomOracle.toBlocks, Poseidon.RandomOracle.chunk,
+    Poseidon.RandomOracle.digest, Poseidon.RandomOracle.initialState] using hout.1
+
+/-- `hashVec` is sound: the digest reads as the value `hash` of the input readings. -/
+@[spec] theorem hashVec_spec [Field F] [DecidableEq F] (p : Poseidon.Params F)
+    (hsize : p.roundConstants.size = 5 * 11) (xs : List (FVar F))
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/RandomOracle.lean]: 5 * 11

File: formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean [hunk 7]
```diff
@@ -0,0 +1,591 @@
...
+/-- Sound-side reads-as: the cells read under `V` as the value sponge's cells, and the
+modes agree. -/
+def Vals [Add F] [Mul F] (V : Valuation F) (sv : SpongeVar F)
+    (s : Poseidon.State F) : Prop :=
+  sv.state.1.val V = s.state.1 ∧ sv.state.2.1.val V = s.state.2.1 ∧
+    sv.state.2.2.val V = s.state.2.2 ∧ sv.mode = s.mode
+
+/-- Complete-side reads-as: the cells evaluate on the prover table to the value
+sponge's cells, and the modes agree. -/
+def Reads [Add F] [Mul F] (env : Assignments F) (sv : SpongeVar F)
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean]: surely this is fuplicated, or at the very least doesn't belong in this module but some lower level module

File: formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean [hunk 8]
```diff
@@ -0,0 +1,591 @@
...
+    subst ha' hb' hc' hx'
+    refine ⟨CVar.eval_le hle ha, CVar.eval_le hle hb, ?_⟩
+    simpa [Poseidon.addSlot, add_comm] using hr _ (CVar.eval_add_ hx hc)
+
+/-! ## The op laws -/
+
+/-- `absorb` is sound: the output sponge reads as the value single-element absorb
+`Poseidon.absorb1` of whatever state the input sponge reads as. -/
+@[spec] theorem absorb_spec [Field F] [DecidableEq F] (p : Poseidon.Params F)
+    (hsize : p.roundConstants.size = 5 * 11) (sv : SpongeVar F) (x : FVar F)
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean]: 5 * 11

File: formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean [hunk 9]
```diff
@@ -0,0 +1,591 @@
...
+    exact ⟨by simpa [slotVar, Poseidon.slot] using e1, e1, e2, e3, rfl⟩
+
+/-- `absorb` is complete: the honest run accepts on readable cells and element, and
+the output sponge reads back as `Poseidon.absorb1` of whatever state the input sponge
+reads as. -/
+@[spec] theorem absorb_complete_spec [Field F] [DecidableEq F] (p : Poseidon.Params F)
+    (hsize : p.roundConstants.size = 5 * 11) (sv : SpongeVar F) (x : FVar F)
+    (Q : PostCond (SpongeVar F) (.arg (ProverState F) (.except EvalError .pure))) :
+    ⦃Complete
+        (fun env => (sv.state.1.eval env).isOk ∧ (sv.state.2.1.eval env).isOk ∧
```
Comment (martyall) [inline formal/snarky/Snarky/Kimchi/Circuit/Sponge.lean]: this is why this is so dumb because instead of having a state type that yo uan just read, you have to isOk every factor. this will not scale, we do this kind of thing all the time unfortunately
